US07241773B2
3-(3-phenoxyphenoxy)quinuclidine
3-Hydroxy quinuclidine (Aldrich, 254 mg, 2 mmol) in tetrahydrofuran (anhydrous, 10 mL) was treated with 3-phenoxyphenol (Aldrich, 186 mg, 1 mmol), DIAD (diisopropyl azadicarboxylate, Aldrich, 404 mg, 2 mmol), and triphenylphosphine (Aldrich, 522 mg, 2 mmol) at ambient temperature for two days. The reaction mixture was concentrated under reduced pressure. The residue was purified by chromatography (SiO2, CH2Cl2:MeOH:NH3.H2O, 90:10:1, Rf. 0.30) as oil (250 mg, yield, 85%). 1H NMR (MeOH-d4, 300 MHz) δ 1.42–1.58 (m, 1H), 1.64–1.75 (m, 1H), 1.78–1.88 (m, 1H), 2.00–2.15 (m, 1H), 2.16–2.24 (m, 1H), 2.80–3.1 3.34–3.40 (m, 1H), 4.52 (m, 1H), 6.52 (m, 2H), 6.67(dd, J=2.4, 1.0 Hz, 1H), 6 2H), 7.11 (tt, J=7.5, 1.7 Hz, 1H), 7.23 (t, J=7.8 Hz, 1H), 7.35 (m, 2H) ppm. MS (DCl/NH3) m/z 296 (M+H)+.

reactant | 3-Hydroxy quinuclidine | 2 mmol, 254 mg | OC1CN2CCC1CC2 | C7H13NO
reactant | 3-phenoxyphenol | 1 mmol, 186 mg | O(C1=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O2
reactant | DIAD | 2 mmol, 404 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 2 mmol, 522 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-(3-phenoxyphenoxy)quinuclidine | O(C1=CC=CC=C1)C=1C=C(OC2CN3CCC2CC3)C=CC1 | C19H21NO2
